Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ female, wheelchair bound at baseline & h/o dementia 
transferred from ___ after an unwitnessed fall at her 
___ nursing facility, with bruising around her right eye and 
deformity to her right shoulder with right shoulder pain. She 
went to the outside ED, where she was found to have a proximal 
right humerus fracture, left side ___ rib fractures and T10-L2
compression fractures likely chronic. She was transferred to 
___ and seen in the ED by Ortho. Her daughter stated that she 
prefers nonsurgical management of the right humeral fracture. 
She is unable to provide further history so history was obtained 
primarily from her daughter. She was also found to have a likely 
urinary tract infection at her SNF. 

 
Past Medical History:
Past Medical History: 
Dementia
Atrial fibrillation
Hypertension
Hypothyroidism
systolic murmur 
glaucoma 
deafness 
constipation 
anemia

Past Surgical History:

Rectal prolapse repair ___ years ago

 
Social History:
___
Family History:
non-contributory.
 
Physical Exam:
Admission Physical Exam: 

Vitals: 99.6 78 190/98 20 98% 2L NC
GEN: A&O x0, appears demented
HEENT: Ecchymosis & swelling surrounding right eye noted with
abrasion on right forehead. No scleral icterus, mucus membranes
moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: Deferred
Ext: 2+ pitting edema in b/l ___. Tender to palpation in right
upper extremity. 

Discharge Physical Exam:
VS: 98.0, BP: 165/52, HR: 84, RR: 18, O2: 95% RA
GENERAL: alert and oriented to person per baseline. NAD.
HEENT: right periorbital ecchymosis. PERRL, EOM intact
CV: regular rate, irregular rhythm
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation 
EXTREMITIES: RUE in sling, moves all fingers, +2 radial pulses 
b/l.  b/l ___ w/ 2+ edema, warm, well-perfused b/l
 
Pertinent Results:
IMAGING:

___: ECG:
Sinus bradycardia. Left ventricular hypertrophy. Poor R wave 
progression. 
Compared to the previous tracing of ___ the ventricular 
premature beat are absent and bradycardia is new. 

___: TIB/FIB (AP & LAT) LEFT:

No acute fracture or dislocation.  Soft tissue swelling most 
notable 
anteriorly at the left ankle. 

___: WRIST(3 + VIEWS) RIGHT:

Chronic changes. No acute fracture or dislocation.

MICROBIOLOGY: ___ ___/UCx):

 URINE CULTURE  Final                                            
 ___       
     Organism 1                      CITROBACTER FREUNDII
        COLONY COUNT                >100,000 org/ml

     1.  CITROBACTER FREUNDII
                       Target Route Dose               RX     AB 
  Cost M.I.C.    IQ    
                       ------ ----- ------------------ ------ -- 
------ --------- ------
       AMOX/CLAV                                       R         
       4               
       CEFAZOLIN                                       R         
       >=64            
       CEFTAZIDIME                                     S         
       <=1             
       CEFTRIAXONE                                     S         
       <=1             
       CIPROFLOXACIN                                   S         
       <=0.25          
       ERTAPENEM                                       S         
       <=0.5           
       GENTAMICIN                                      S         
       <=1             
       IMIPENEM                                        S         
       <=0.25          
       LEVOFLOXACIN                                    S         
       <=0.12          
       NITROFURANTOIN                                  S         
       <=16            
       PIP/TAZ                                         S         
       <=4             
       TOBRAMYCIN                                      S         
       <=1             
       TRIM/SULFA                                      S         
       <=20            

 
Brief Hospital Course:
Ms. ___ is a ___ y/o F w/ hx dementia, trx from ___ 
after an unwitnessed fall at her skilled nursing facility.  
Imaging revealed a right proximal humerus fracture, left side 
___ rib fractures and chronic T10-L2 compression fractures. She 
was also has a UA/Ucx at ___ which was consistent with a 
UTI (citrobacter freundii).  Orthopaedic Surgery was consulted 
for the right humerus fracture and recommended non-operative 
management, non-weight bearing on the RUE and a sling.  The 
patient was admitted to the Trauma Surgery service for further 
care.

On HD1, the patient had a tertiary exam performed.  She was 
started on a regular diet, written for home medications and a 5 
day course of ciprofloxacin for her UTI.  ___ were consulted 
and Speech & Swallow was consulted for coughing with pills and 
liquids.  She was cleared for a soft, regular diet with thin 
liquids.     

The patient was alert throughout hospitalization.  Pain was 
well-controlled on oral acetaminophen and tramadol.  The patient 
remained stable from a cardiovascular and pulmonary standpoint; 
vital signs were routinely monitored. Good pulmonary toilet, 
early ambulation and incentive spirometry were encouraged 
throughout hospitalization. The patient's intake and output were 
closely monitored The patient's blood counts were closely 
watched for signs of bleeding, of which there were none. The 
patient received subcutaneous heparin and ___ dyne boots were 
used during this stay.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet 
and voiding without assistance, and pain was well controlled.  
The patient worked with Physical Therapy and it was recommended 
she be discharged back to her Skilled Nursing Facility. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.
 
Medications on Admission:
Trazodone, cyanocobalamin, MiraLax, levothyroxine,
lorazepam, lisinopril, metoprolol succinate, vitamin D,
acetaminophen, aspirin
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*6 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
please hold for loose stool   
4.  Senna 8.6 mg PO BID:PRN constipation   
5.  TraMADol 50 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
6.  Aspirin 81 mg PO DAILY  
7.  Levothyroxine Sodium 100 mcg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  
9.  Metoprolol Succinate XL 50 mg PO DAILY  
10.  Polyethylene Glycol 17 g PO DAILY  
11.  TraZODone 25 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-Right proximal humerus fracture
-Left ___ rib fractures 
 
Secondary:
-Urinary Tract Infection 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital after a 
fall and were found to have a right upper arm fracture, two left 
rib fractures and a urinary tract infection.  The Orthopaedic 
Service evaluated your arm fracture and no surgery was 
necessary.  Please remain non-weight bearing on your right arm 
and continue to wear your sling for comfort.  Your rib fractures 
will heal on their own, but it is important to use your 
incentive spirometer to help keep your lungs inflated to prevent 
pneumonia.  You were started on an oral antibiotic to treat your 
urinary tract infection. 

You have worked with Physical Therapy and you are now ready to 
be discharged from the hospital.  Please follow the discharge 
instructions below to ensure a safe recovery:

Instructions for Rib Fractures: 

* Your injury caused left-sided rib fractures which can cause 
severe pain and subsequently cause you to take shallow breaths 
because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).
 
General Trauma Surgery Instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___